US05439919
N-cyclohexyl-α-[[2-(tert-butylamino)ethyl]amino]phenylacetamide
A mixture of N-cyclohexyl-α-bromophenylacetamide (2.37 g), N-tert-butylethylenediamine (2.00 g), triethylamine (1.12 ml) and toluene (30 ml) was refluxed for 18 hours. The reaction mixture was concentrated and the residue was purified by means of alumina column chromatography (developing solvent, ethyl acetate) and then distilled under reduced pressure to obtain 1.03 g (38.9%) of title compound as a colorless oily product.

reactant | N-cyclohexyl-α-bromophenylacetamide | 2.37 g | C1(CCCCC1)NC(C(Br)C1=CC=CC=C1)=O | C14H18BrNO
reactant | N-tert-butylethylenediamine | 2.00 g | C(C)(C)(C)NCCN | C6H16N2
reactant | triethylamine | 1.12 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyclohexyl-α-[[2-(tert-butylamino)ethyl]amino]phenylacetamide | 1.03 g, 38.9% | C1(CCCCC1)NC(C(NCCNC(C)(C)C)C1=CC=CC=C1)=O | C20H33N3O
